US04994452
1-[(2-Bromoethyl)oxy]-1,2,3,4-tetrahydro-9-acridinamine
To a suspension of 9-amino-1,2,3,4-tetrahydroacridin-1-ol (7.55 g) in 40 ml of 2-bromoethanol was added 9.9 ml of trifluoroacetic acid. The reaction mixture was stirred at ambient temperature for 18 hrs, added to iced sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The combined organic extracts were washed with water, saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and evaporated. The residue was purified by flash chromatography (ethyl acetate→2% triethylamine/ethyl acetate) to give 7.6 g (67%) of a product. Recrystallization from methanol/water gave the analytical sample, mp 163.5°-164.5° C.

reactant | 9-amino-1,2,3,4-tetrahydroacridin-1-ol | 7.55 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)O | C13H14N2O
reactant | trifluoroacetic acid | 9.9 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-bromoethanol | 40 ml | BrCCO | C2H5BrO
product | 1-[(2-Bromoethyl)oxy]-1,2,3,4-tetrahydro-9-acridinamine | 7.6 g, 67% | BrCCOC1CCCC2=NC3=CC=CC=C3C(=C12)N | C15H17BrN2O
